US04851562
a. Preparation of 4-(m-nitrophenylcarbamoyl)benzoic acid
Into a 10 l flask fitted with an inlet tube for nitrogen, a mechanical stirrer, a dropping funnel, and a thermometer were introduced at room temperature 500 g (1.66 moles) of methyl-4-(m-nitrophenylcarbamoyl)benzoate in 4 l of dimethylacetamide. To the yellow solution there was added dropwise with stirring and cooling a solution of 231 g (85%) of KOH (3.5 moles) in 1 l of methanol. Subsequently, the orange solution was stirred for another hour at 60° C. Next, the reaction mixture was acidified with a dilute solution of hydrochloric acid. The resulting precipitate was filtered, washed with water, and dried in vacuo. Obtained were 457 g of the envisaged product with a melting point of 319° C. (DSC) in a yield of 96%.

reactant | methyl-4-(m-nitrophenylcarbamoyl)benzoate | 1.66 moles, 500 g | COC(C1=CC=C(C=C1)C(NC1=CC(=CC=C1)[N+](=O)[O-])=O)=O | C15H12N2O5
reactant | KOH | 3.5 moles, 231 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylacetamide | 4 l | CC(=O)N(C)C | C4H9NO
solvent | methanol | 1 l | CO | CH4O
product | 4-(m-nitrophenylcarbamoyl)benzoic acid | yield of 96% | [N+](=O)([O-])C=1C=C(C=CC1)NC(=O)C1=CC=C(C(=O)O)C=C1 | C14H10N2O5
